US08633212B2
To a solution of methyl 6′-bromo-1′-(2-(trimethylsilyl)ethylsulfonamido)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1′-carboxylate trifluoroacetate (0.2196 g, 0.37 mmol) and 2-chloropyrimidine (0.1080 g, 0.94 mmol) in MeOH (4 mL) was added Et3N (0.5 mL) at room temperature. The mixture was stirred at 80° C. for 18 h and then concentrated under reduced pressure. The residue was purified by reversed-phase HPLC (SunFire™ Prep C18 OBD™ 5 μm 19×50 mm column, 10%→90% MeOH/H2O, 0.1% CF3COOH over 8 min and then 90% MeOH/H2O, 0.1% CF3COOH over 2 min, flow rate 20 mL/min) to afford 0.0803 g (39%) of methyl 6′-bromo-1-(pyrimidin-2-yl)-1′-(2-(trimethylsilyl)ethylsulfonamido)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1′-carboxylate. LC-MS tR=1.87 min in 3 min chromatography, m/z 553, 555 (MH+).

reactant | methyl 6′-bromo-1′-(2-(trimethylsilyl)ethylsulfonamido)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1′-carboxylate trifluoroacetate | 0.37 mmol, 0.2196 g | FC(C(=O)O)(F)F.BrC1=CC=C2CC3(C(C2=C1)(C(=O)OC)NS(=O)(=O)CC[Si](C)(C)C)CNC3
reactant | 2-chloropyrimidine | 0.94 mmol, 0.1080 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 4 mL | CO | CH4O
product | methyl 6′-bromo-1-(pyrimidin-2-yl)-1′-(2-(trimethylsilyl)ethylsulfonamido)-1′,3′-dihydrospiro[azetidine-3,2′-indene]-1′-carboxylate | 0.0803 g, 39% | BrC1=CC=C2CC3(C(C2=C1)(C(=O)OC)NS(=O)(=O)CC[Si](C)(C)C)CN(C3)C3=NC=CC=N3 | C22H29BrN4O4SSi
